US08975264B2
Step 1: Preparation of 2-ethyl3-(4-methylphenyl)-7-(4-fluorophenyl)-pyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 84)
3-Ethyl-4-(4-methylphenyl)-1H-pyrazol-5-amine (200 mg) and ethyl 3-(4-fluorophenyl)-3-oxopropanoate (250 mg) are stirred overnight in a pyridine (10 mL) solvent at 95° C. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and purified by column chromatography to yield 280 mg of the target compound.

reactant | 3-Ethyl-4-(4-methylphenyl)-1H-pyrazol-5-amine | 200 mg | C(C)C1=NNC(=C1C1=CC=C(C=C1)C)N | C12H15N3
reactant | ethyl 3-(4-fluorophenyl)-3-oxopropanoate | 250 mg | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-ethyl3-(4-methylphenyl)-7-(4-fluorophenyl)-pyrazolo[1,5-a]pyrimidin-5(4H)-one | 280 mg | C(C)C1=NN2C(NC(C=C2C2=CC=C(C=C2)F)=O)=C1C1=CC=C(C=C1)C | C21H18FN3O
